US07851490B2
1-[1-(3-Bromo-phenyl)-1H-benzoimidazol-5-yl]-ethanone
This was prepared from 1-[3-amino-4-(3-bromo-phenylamino)-phenyl]-ethanone (86.5 g, 0.28 mol) by treatment with triethyl orthoformate in THF in the presence of p-toluenesulfonic acid as described in Example 1.

reactant | 1-[3-amino-4-(3-bromo-phenylamino)-phenyl]-ethanone | 0.28 mol, 86.5 g | NC=1C=C(C=CC1NC1=CC(=CC=C1)Br)C(C)=O | C14H13BrN2O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | C1CCOC1 | C4H8O
product | 1-[1-(3-Bromo-phenyl)-1H-benzoimidazol-5-yl]-ethanone | BrC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)=O | C15H11BrN2O
